US07576109B2
Intermediate: 4-Methyl-2-m-tolyl-oxazole-5-carboxylic acid methyl ester
Heat to 120° C. a neat mixture of methyl 2-chloroacetoacetate (914 mL, 7.5 mmol) and 3-methyl-benzamide (676 mg, 5 mmol) and stir at this temperature for 12 hrs. Cool the reaction mixture to room temperature and dilute it with ethyl acetate, wash with saturated sodium bicarbonate solution (3 times), water (twice) and brine, Dry the organic extract over MgSO4 and concentrate. Purify the resulting residue by flash chromatography (elute with 10% ethyl acetate in heptane) to give the title compound as a yellow oil (492 mg).

reactant | methyl 2-chloroacetoacetate | 7.5 mmol, 914 mL | ClC(C(=O)OC)C(=O)C | C5H7ClO3
reactant | 3-methyl-benzamide | 5 mmol, 676 mg | CC=1C=C(C(=O)N)C=CC1 | C8H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Methyl-2-m-tolyl-oxazole-5-carboxylic acid methyl ester | 492 mg | COC(=O)C1=C(N=C(O1)C=1C=C(C=CC1)C)C | C13H13NO3
